US04411839
To 1.35 mmol of 5-bromo-1-(2-methylanilino)-2,4-pyrimidinedione in 5 ml of 50% aqueous ethanol is added 1.41 mmol of sodium cyanide. The mixture is heated to reflux for 4 hours, after which it is cooled to RT, filtered and recrystallized from ethanol to give 6-cyano-1-(2-methylanilino)-2,4-pyrimidinedione.

reactant | 5-bromo-1-(2-methylanilino)-2,4-pyrimidinedione | 1.35 mmol | BrC=1C(NC(N(C1)NC1=C(C=CC=C1)C)=O)=O | C11H10BrN3O2
reactant | sodium cyanide | 1.41 mmol | [C-]#N.[Na+]
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 6-cyano-1-(2-methylanilino)-2,4-pyrimidinedione | C(#N)C1=CC(NC(N1NC1=C(C=CC=C1)C)=O)=O | C12H10N4O2
